US06838472B2
A solution of N-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-acetamide (1.5 g, 6.1 mmole) in 8 mL THF was treated with 2.5 mL of lithium aluminium hydride solution (1M in THF). The reaction mixture was heated to reflux for 3.5 hours. The mixture was cooled to 0° C. and treated with 0.95 mL water, 0.95 mL 15% aqueous sodium hydroxide solution and 3.0 mL water. The mixture was stirred at room temperature until a white precipitate formed. MgSO4 was added, the mixture was filtered and concentrated in vacuo, giving a pale yellow oil. The product was purified by flash chromatography (SiO2, 15% ethyl acetate/hexanes), yielding 1.2 g (86%) of N-ethyl-N-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-amine, as a colourless oil.

reactant | N-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-acetamide | 6.1 mmole, 1.5 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)NC(C)=O)C | C16H23NO
reactant | lithium aluminium hydride | 1M, 2.5 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 0.95 mL | [OH-].[Na+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | water | 3.0 mL | O | H2O
solvent | water | 0.95 mL | O | H2O
product | N-ethyl-N-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-amine | 1.2 g, 86% | C(C)NC1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C16H25N
